US04423213
To a solution of phosphorus pentachloride (7.87 g) in ethylene chloride (47.75 ml) was added pyridine (2.99 g) at 5° to 6° C. After stirring for 30 minutes, to the mixture was added benzhydryl 7-(5-benzhydryloxycarbonyl-5-ethoxycarbonylaminopentanamido)-3-vinyl-3-cephem-4-carboxylate (9.75 g). After stirring for 2 hours at 5° to 6° C. and cooling to -30° to -20° C., the mixture was treated with 2-methoxyethanol (7.67 ml) for 1.5 hours and then with water (10 ml) for an hour. The precipitates were collected by filtration and washed with ethyl acetate and diisopropyl alcohol to give benzhydryl 7-amino-3-vinyl-3-cephem-4-carboxylate hydrochloride (1.99 g).

reactant | phosphorus pentachloride | 7.87 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | pyridine | 2.99 g | N1=CC=CC=C1 | C5H5N
reactant | benzhydryl 7-(5-benzhydryloxycarbonyl-5-ethoxycarbonylaminopentanamido)-3-vinyl-3-cephem-4-carboxylate | 9.75 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C(CCCC(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)NC(=O)OCC | C44H43N3O8S
reactant | 2-methoxyethanol | 7.67 ml | COCCO | C3H8O2
solvent | ethylene chloride | 47.75 ml | C(CCl)Cl | C2H4Cl2
solvent | water | 10 ml | O | H2O
product | benzhydryl 7-amino-3-vinyl-3-cephem-4-carboxylate hydrochloride | 1.99 g | Cl.NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | InChI=1S/C22H20N2O3S.ClH/c1-2-14-13-28-21-17(23)20(25)24(21)18(14)22(26)27-19(15-9-5-3-6-10-15)16-11-7-4-8-12-16;/h2-12,17,19,21H,1,13,23H2;1H/t17?,21-;/m1./s1
